US07384934B2
(S)-10-[3-(2-Methoxy-ethyl)-piperazin-1-yl]-4H-3-thia-1,4,9-triaza-benzo[f]azulene-2-yl-methanol
Combine (S)-10-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-4H-3-thia-1,4,9-triaza-benzo[f]azulene-2-carboxylic acid ethyl ester (0.49 g, 1.18 mmol) in 5.0 mL THF, add 2.95 mL of LiAlH4 (1.0 M THF) dropwise at ice-water bath. After addition, remove the ice bath, stir the reaction mixture at RT. After half hour, quench the reaction by adding 1.0 N NaOH cautiously until no gas evolves. Pass the suspension through celite plug, wash repeatedly with ether, and concentrate the organic solution to a residue. Purify by flash chromatography affords 0.22 g of the title compound: mass spectrum (electrospray) (m/e): 374.0 (M+1), 372.1 (M−1); 1H NMR (400 MHz, DMSO-d6): 7.79 (s, 1H), 6.86-6.75 (m, 3H), 6.69-6.66 (m, 1H), 5.89 (br, 1H), 4.50 (d, 2H, J=4.4 Hz), 4.04-3.93 (m, 2H), 3.38-3.33 (m, 2H), 3.30 (s, 3H), 2.84-2.60 (m, 4H), 2.46-2.41 (m, 1H), 1.49 (q, 2H, J=6.6 Hz).

reactant | (S)-10-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-4H-3-thia-1,4,9-triaza-benzo[f]azulene-2-carboxylic acid ethyl ester | 1.18 mmol, 0.49 g | C(C)OC(=O)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](N(CC3)C)CCOC | C21H27N5O3S
reactant | LiAlH4 | 1.0 M, 2.95 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 1.0 N | [OH-].[Na+]
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | (S)-10-[3-(2-Methoxy-ethyl)-piperazin-1-yl]-4H-3-thia-1,4,9-triaza-benzo[f]azulene-2-yl-methanol | 0.22 g | COCC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=NC13)CO)C=CC=C2 | C18H23N5O2S
